US07807720B2
(R)-4-Benzyl-3-[(S)-2-(4-fluoro-3,5-dimethyl-benzyl)-pent-4-enoyl]-oxazolidin-2-one (B7)
To a cooled (−78° C.) solution of (R)-4-benzyl-3-pent-4-enoyl-oxazolidin-2-one (0.500 g, 1.928 mmol) in 15 mL of THF, was added LiHMDS (2.9 mL, 2.9 mmol, 1.0 M in THF). The resulting mixture was stirred at −78° C. under N2 for 1 h and then a solution of 3,5-dimethyl-4-fluorobenzyl bromide (0.460 g, 2.121 mmol) in 5 mL of THF was added. After being stirred at −78° C. for 1 h followed by warming to room temperature over 2 h, the reaction mixture was quenched with 50 mL of aqueous NH4Cl solution and extracted with dichloromethane (50 mL×3). The combined organic extracts were dried, filtered, and concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel) eluting with 0-100% dichloromethane/hexanes to give the title compound as colorless oil (0.221 g, 56% yield). GC-MS: tR=7.0 min; m/z 395 (M+).

reactant | (R)-4-benzyl-3-pent-4-enoyl-oxazolidin-2-one | 1.928 mmol, 0.500 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CCC=C)=O | C15H17NO3
reactant | LiHMDS | 2.9 mmol, 1.0 M, 2.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3,5-dimethyl-4-fluorobenzyl bromide | 2.121 mmol, 0.460 g | CC=1C=C(CBr)C=C(C1F)C | C9H10BrF
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-4-Benzyl-3-[(S)-2-(4-fluoro-3,5-dimethyl-benzyl)-pent-4-enoyl]-oxazolidin-2-one | 0.221 g, 56% yield | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=C)CC1=CC(=C(C(=C1)C)F)C)=O | C24H26FNO3
